US04882342
5-(2-Aminomethylprop-2-yl)-2-(4-pyridinyl)-benzimidazole
To 22.1 g. 4-(2-acetamidomethylprop-2-yl)-1,2-diaminobenzene and 42 ml. triethylamine in 500 ml. dichloromethane are added, while cooling with ice water, 27 g. isonicotinic acid chloride hydrochloride. Stirring is continued at ambient temperature until the reaction of the diamine is complete (thin layer chromatography, silica gel, dichloromethane:methanolic ammonia=10:1 v/v). It is shaken with water and the organic phase is separated off and evaporated to dryness in a vacuum. The residue (24.3 g.) is taken up in 200 ml. ethanol, mixed with 60 ml. concentrated hydrochloric acid and boiled under reflux for 3 days. It is evaporated to dryness in a vacuum, the residue is digested with aqueous ammonia solution at pH=6, 50 ml. dichloromethane are added thereto, filtered off with suction and then washed with iced water and dichloromethane to give 14.1 g. of colourless crystals which are purified by column chromatography (column: diameter 6 cm., length 40 cm., filled with 1 liter silica gel, elution agent dichloromethane:methanolic ammonia 15:1 v/v). After combining the appropriate fractions, removing the elution agent in a vacuum and triturating with ethyl acetate, there are obtained 9.2 g. of the title compound as colourless crystals; m.p. 199°-202° C. 2.7 g. thereof are recrystallised from dioxan to give 2.3 g. of colourless crystals; m.p. 203°- 204° C.

reactant | 4-(2-acetamidomethylprop-2-yl)-1,2-diaminobenzene | C(C)(=O)NCC(C)(C)C1=CC(=C(C=C1)N)N | C12H19N3O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | isonicotinic acid chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(2-Aminomethylprop-2-yl)-2-(4-pyridinyl)-benzimidazole | NCC(C)(C)C1=CC2=C(N=C(N2)C2=CC=NC=C2)C=C1 | C16H18N4
